US08247619B2
A molten solution of phenol (1848 g, 19.65 mol), guaiacol (812 g, 6.55 mol), and acetone (120 g, 2.14 mol) at 50 C was fed downflow to a jacketed reactor containing 35 g of attached promoter IER catalyst (a monodispersed strongly acidic ion exchange resin with 2% divinylbenzene crosslinking, modified with ethylmercaptan promoter, 2.2 meg strong acid/g, 1.4 meg SH/g) with weighted hourly space velocity=1.0 while the reactor was held at 70 C. The reactor effluent was cooled to 40 C and filtered to remove the BPA-phenol adduct. The filtrate was then stripped to 170 C/20 ml torr and the residue crystallized from isopropyl alcohol. The filtrate from the isopropyl alcohol was stripped to dryness on a rotovap and the residue purified by column chromatography (eluting with 85% cyclohexane/15% ethyl acetate on silica gel) to give 63 g of a BPA:monomethoxyBPA:dimethoxyBPA mixture that was 18% BPA, 63% monomethoxyBPA, and 18% dimethoxyBPA by UPLC peak area.

reactant | phenol | 19.65 mol, 1848 g | C1(=CC=CC=C1)O | C6H6O
reactant | guaiacol | 6.55 mol, 812 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | acetone | 2.14 mol, 120 g | CC(=O)C | C3H6O
reactant | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | ethylmercaptan | C(C)S | C2H6S
product | BPA | 63 g | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
